US08426437B2
In a sealed tube, 490 mg (1.5 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) is dissolved in 1.5 mL of an aqueous solution of ammonia at 28%. The mixture is stirred at 100° C. for 4 hours. The solution is cooled then the solvents are evaporated. The residue is taken up in 10 mL of anhydrous ethanol. A solution of 1.1 mL (15 mmol) of thionyl chloride in 4.5 mL of anhydrous ethanol is then added slowly. The reaction mixture is stirred at 70° C. for 48 hours then cooled to room temperature. The solvents are evaporated and the residue is purified by chromatography on silica (eluent chloroform/methanol/ammonia 85/13/2) to give 18 mg (3%) of 4-oxo-8-sulfamoyl-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate in the form of a beige solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 1.5 mmol, 490 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | thionyl chloride | 15 mmol, 1.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | N | H3N
solvent | ethanol | 4.5 mL | C(C)O | C2H6O
product | 4-oxo-8-sulfamoyl-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 18 mg, 3% | O=C1NC=2C=CC(=CC2C2=C1NC=C2)S(N)(=O)=O.C(C)C(=O)[O-] | InChI=1S/C11H9N3O3S.C3H6O2/c12-18(16,17)6-1-2-9-8(5-6)7-3-4-13-10(7)11(15)14-9;1-2-3(4)5/h1-5,13H,(H,14,15)(H2,12,16,17);2H2,1H3,(H,4,5)/p-1
